US05925667
1-ethyl-2-(3,4-dimethoxy-5-prenyloxybenzoylaminomethyl)pyrrolidine
In a manner identical to Example 15, 3,4-dimethoxy-5-prenyloxybenzoic acid (0.80 g) was subjected to a condensation reaction with 2-aminomethyl-1-ethylpyrrolidine (0.39 g), thereby yielding 0.78 g (69%) of the aimed compound.

reactant | 3,4-dimethoxy-5-prenyloxybenzoic acid | 0.80 g | COC=1C=C(C(=O)O)C=C(C1OC)OCC=C(C)C | C14H18O5
reactant | 2-aminomethyl-1-ethylpyrrolidine | 0.39 g | NCC1N(CCC1)CC | C7H16N2
product | 1-ethyl-2-(3,4-dimethoxy-5-prenyloxybenzoylaminomethyl)pyrrolidine | 0.78 g, 69% | C(C)N1C(CCC1)CNC(C1=CC(=C(C(=C1)OCC=C(C)C)OC)OC)=O | C21H32N2O4
